US06559145B2
6-Iodo-1-methyl-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-Dioxide [BS.5]
To a stirring solution of 1-methyl-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-dioxide (Preparation 33, 1.0 g) in CHCl3 (100 ml) at ambient temperature is added HgO (1.19 g) and iodine (1.17 g). The resulting mixture is stirred overnight at ambient temperature and the solids removed by filtration through diatomaceous earth. The solvent is removed in vacuo and the residue purified via flash column chromatography (4/1, hexanes/EtOAc) to afford 0.68 g (43%) of the title compound as a tan solid. Physical characteristics: 1H NMR (CDCl3) δ 3.40, 4.20, 7.53; IR (diffuse reflectance) 2986, 1675, 1664, 1505, 1478, 1405, 1338, 1327, 1275, 1245, 1177, 1158, 1129, 818, 781 cm−1; MS (EI) m/z 343 (M+). Anal. Found: C, 24.65; H, 1.82; N, 4.08.

reactant | 1-methyl-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-dioxide | 1.0 g | CN1S(CC(C2=C1SC=C2)=O)(=O)=O | C7H7NO3S2
reactant | iodine | 1.17 g | II | I2
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Iodo-1-methyl-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-Dioxide | 0.68 g, 43% | IC1=CC2=C(N(S(CC2=O)(=O)=O)C)S1 | C7H6INO3S2
